### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/WeakLimits): weak limits

### PR DESCRIPTION
**Pull request by smorel394**
Define weak limits and add some minimal API for them. Also consider the special cases of weak equalizers, weak kernels and weak pullbacks. Prove that a category with weak equalizers and pullbacks has weak pullbacks, and that a preadditive category has weak equalizers if and only if it has weak kernels.

If `F : J ⥤ C` is a functor and `c : Cone F`, we say that `c` is a weak limit of `F` if every cone over `F` admits a (not necessarily unique) morphism to `c`. In other words, a weak limit satisfies the same "versal property" as a limit, without the uniqueness condition. In particular, weak limits are not unique, and they are not functorial.

TODO:
* Prove that a triangulated category has weak kernels: this is #41162.
* If `C` is an additive category with weak limits, then its cokernel completion (also TODO) is an abelian category.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,212 @@
...
+
+We set up some API for weak limits, mostly copied from that for limits, prove that any
+limit cone is a weak limit cone, and that, if a limit exists, then it is a retract of any
+weak limit (see `Retract.ofIsLimit`).
+
+We then specialize to weak equalizers, weak kernels and weak pullbacks, and give some API
+for those shapes, again inspired from the non-weak case. We prove that a category with weak
+equalizers and pullbacks has weak pullbacks, and that a preadditive category has weak equalizers
+if and only if it has weak kernels.
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean:31]: Could you add a reference? (Which may require adding an entry to `docs/references.bib`.)

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,212 @@
...
+-/
+
+@[expose] public section
+
+universe u v w
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Untested, but it seems the universes are not used here.
```suggestion
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,212 @@
...
+  lift : ∀ s : Cone F, s.pt ⟶ t.pt
+  /-- The map makes the triangle with the two natural transformations commute -/
+  fac : ∀ (s : Cone F) (j : J), lift s ≫ t.π.app j = s.π.app j := by cat_disch
+
+attribute [reassoc (attr := simp)] IsWeakLimit.fac
+
+/--
+If `F` has a limit, then it is a retract of any weak limit of `F`.
+-/
+def _root_.Retract.ofIsLimit {t t' : Cone F} (l : IsLimit t) (l' : IsWeakLimit t') :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: I would suggest naming this as `IsWeakLimit.retractOfIsLimit`.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,212 @@
...
+    Retract t.pt t'.pt where
+      i := l'.lift t
+      r := l.lift t'
+      retract := l.hom_ext (fun _ ↦ by rw [assoc, id_comp, l.fac t', l'.fac t])
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
  i := l'.lift t
  r := l.lift t'
  retract := l.hom_ext (fun _ ↦ by rw [assoc, id_comp, l.fac t', l'.fac t])
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,212 @@
...
+
+/--
+If `c : Cone F` is a limit, then it is a weak limit.
+-/
+def IsWeakLimit.OfIsLimit {t : Cone F} (l : IsLimit t) : IsWeakLimit t where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Maybe `IsLimit.isWeakLimit`?

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,212 @@
...
+  /-- The cone itself -/
+  cone : Cone F
+  /-- The proof that is the limit cone -/
+  isWeakLimit : IsWeakLimit cone
+
+/--
+Any limit cone defines a weak limit cone with the same underlying cone over `F` and the same
+lifts.
+-/
+def WeakLimitCone.OfLimitCone {F : J ⥤ C} (c : LimitCone F) : WeakLimitCone F where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Or `LimitCone.weakLimitCone`?
```suggestion
def WeakLimitCone.ofLimitCone {F : J ⥤ C} (c : LimitCone F) : WeakLimitCone F where
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,212 @@
...
+
+/-- `HasWeakLimit F` represents the mere existence of a weak limit for `F`. -/
+class HasWeakLimit (F : J ⥤ C) : Prop where mk' ::
+  /-- There is some weak limit cone for `F` -/
+  exists_weakLimit : Nonempty (WeakLimitCone F)
+
+/--
+If `F` has a limit, then it has a weak limit.
+-/
+lemma HasWeakLimit_of_hasLimit (F : J ⥤ C) [HasLimit F] : HasWeakLimit F where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
instance (F : J ⥤ C) [HasLimit F] : HasWeakLimit F where
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,212 @@
...
+  exists_weakLimit := Nonempty.intro (WeakLimitCone.OfLimitCone (getLimitCone F))
+
+theorem HasWeakLimit.mk {F : J ⥤ C} (d : WeakLimitCone F) : HasWeakLimit F :=
+  ⟨Nonempty.intro d⟩
+
+/-- Use the axiom of choice to extract explicit `WeakLimitCone F` from `HasWeakLimit F`. -/
+def getWeakLimitCone (F : J ⥤ C) [HasWeakLimit F] : WeakLimitCone F :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean:103]:
```suggestion
@[no_expose]
def getWeakLimitCone (F : J ⥤ C) [HasWeakLimit F] : WeakLimitCone F :=
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,212 @@
...
+  Classical.choice <| HasWeakLimit.exists_weakLimit
+
+variable (J C) in
+/-- `C` has weak limits of shape `J` if there exists a weak limit for every functor
+`F : J ⥤ C`. -/
+class HasWeakLimitsOfShape : Prop where
+  /-- All functors `F : J ⥤ C` from `J` have weak limits -/
+  has_weakLimit : ∀ F : J ⥤ C, HasWeakLimit F := by infer_instance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
  hasWeakLimit : ∀ F : J ⥤ C, HasWeakLimit F := by infer_instance
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,212 @@
...
+
+instance (priority := 100) hasWeakLimitOfHasWeakLimitsOfShape
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: This could probably be replaced by `attribute [instance] HasWeakLimitsOfShape.hasWeakLimit`.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,212 @@
...
+    [HasWeakLimitsOfShape J C] (F : J ⥤ C) : HasWeakLimit F :=
+  HasWeakLimitsOfShape.has_weakLimit F
+
+instance (priority := 100) hasWeakLimitsOfShapeOfHasLimitsOfShape {J : Type*} [Category* J]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: We can let Lean choose the name of the instance:
```suggestion
instance (priority := 100) {J : Type*} [Category* J]
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,212 @@
...
+    [HasLimitsOfShape J C] : HasWeakLimitsOfShape J C where
+      has_weakLimit F := HasWeakLimit_of_hasLimit F
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
  has_weakLimit F := HasWeakLimit_of_hasLimit F
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,212 @@
...
+  (weakLimit.cone F).π.app j
+
+@[reassoc]
+theorem weakLimit.π_comp_eqToHom (F : J ⥤ C) [HasWeakLimit F] {j j' : J} (hj : j = j') :
+    weakLimit.π F j ≫ eqToHom (by subst hj; rfl) = weakLimit.π F j' := by
+  subst hj
+  simp
+
+@[simp]
+theorem weakLimit.cone_x {F : J ⥤ C} [HasWeakLimit F] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
theorem weakLimit.cone_pt {F : J ⥤ C} [HasWeakLimit F] :
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,212 @@
...
+theorem weakLimit.lift_π {F : J ⥤ C} [HasWeakLimit F] (c : Cone F) (j : J) :
+    weakLimit.lift F c ≫ weakLimit.π F j = c.π.app j :=
+  IsWeakLimit.fac _ c j
+
+namespace IsWeakLimit
+
+/-- Transport evidence that a cone is a limit cone across an isomorphism of cones. -/
+def ofIsoWeakLimit {r t : Cone F} (P : IsWeakLimit r) (i : r ≅ t) : IsWeakLimit t where
+  lift s := P.lift s ≫ i.hom.hom
+  fac s j := by simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,212 @@
...
+
+@[reassoc (attr := simp)]
+theorem weakLimit.lift_π {F : J ⥤ C} [HasWeakLimit F] (c : Cone F) (j : J) :
+    weakLimit.lift F c ≫ weakLimit.π F j = c.π.app j :=
+  IsWeakLimit.fac _ c j
+
+namespace IsWeakLimit
+
+/-- Transport evidence that a cone is a limit cone across an isomorphism of cones. -/
+def ofIsoWeakLimit {r t : Cone F} (P : IsWeakLimit r) (i : r ≅ t) : IsWeakLimit t where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean:174]:
```suggestion
@[simps]
def ofIsoWeakLimit {r t : Cone F} (P : IsWeakLimit r) (i : r ≅ t) : IsWeakLimit t where
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,212 @@
...
+  lift s := P.lift s ≫ i.hom.hom
+  fac s j := by simp
+
+theorem ofIsoWeakLimit_lift {r t : Cone F} (P : IsWeakLimit r) (i : r ≅ t) (s) :
+    (P.ofIsoWeakLimit i).lift s = P.lift s ≫ i.hom.hom :=
+  rfl
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,212 @@
...
+/-- The versal morphism from any other cone to a weak limit cone. -/
+def liftConeMorphism {t : Cone F} (h : IsWeakLimit t) (s : Cone F) : s ⟶ t where hom := h.lift s
+
+/-- Given a right adjoint functor between categories of cones,
+the image of a weak limit cone is a weak limit cone.
+-/
+def ofRightAdjoint {left : Cone F ⥤ Cone G} {right : Cone G ⥤ Cone F}
+    (adj : left ⊣ right) {c : Cone G} (t : IsWeakLimit c) : IsWeakLimit (right.obj c) where
+      lift s := (adj.homEquiv s c (t.liftConeMorphism _)).hom
+      fac s j := by simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
  lift s := (adj.homEquiv s c (t.liftConeMorphism _)).hom
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,212 @@
...
+
+end IsWeakLimit
+
+/-- If a functor `F` has a weak limit, so does any naturally isomorphic functor.
+-/
+theorem hasWeakLimit_of_iso {F G : J ⥤ C} [HasWeakLimit F] (α : F ≅ G) : HasWeakLimit G :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean:249]: Could you add first the analogue of ` IsLimit.equivOfNatIsoOfIso` before deducing this lemma?

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Ok.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 5 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Ok.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 10 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Done.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 1 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean:31]: I added Freyd's paper *Representations in Abelian categories* as a reference, that is the earliest one I know.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 18 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean:249]: I added the best analogue I could prove (and a bunch of other lemmas around it, all taken from `CategoryTheory.Limits.IsLimit` or `CategoryTheory.Limits.HasLimit`).

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,262 @@
...
+lifts.
+-/
+def WeakLimitCone.ofLimitCone {F : J ⥤ C} (c : LimitCone F) : WeakLimitCone F where
+  cone := c.cone
+  isWeakLimit := c.isLimit.isWeakLimit
+
+/-- `HasWeakLimit F` represents the mere existence of a weak limit for `F`. -/
+class HasWeakLimit (F : J ⥤ C) : Prop where mk' ::
+  /-- There is some weak limit cone for `F` -/
+  exists_weakLimit : Nonempty (WeakLimitCone F)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
  exists_weakLimitCone : Nonempty (WeakLimitCone F)
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,262 @@
...
+`F : J ⥤ C`. -/
+class HasWeakLimitsOfShape : Prop where
+  /-- All functors `F : J ⥤ C` from `J` have weak limits -/
+  hasWeakLimit : ∀ F : J ⥤ C, HasWeakLimit F := by infer_instance
+
+attribute [instance] HasWeakLimitsOfShape.hasWeakLimit
+
+instance (priority := 100) {J : Type*} [Category* J]
+    [HasLimitsOfShape J C] : HasWeakLimitsOfShape J C where
+  hasWeakLimit _ := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,262 @@
...
+/-- `C` has weak limits of shape `J` if there exists a weak limit for every functor
+`F : J ⥤ C`. -/
+class HasWeakLimitsOfShape : Prop where
+  /-- All functors `F : J ⥤ C` from `J` have weak limits -/
+  hasWeakLimit : ∀ F : J ⥤ C, HasWeakLimit F := by infer_instance
+
+attribute [instance] HasWeakLimitsOfShape.hasWeakLimit
+
+instance (priority := 100) {J : Type*} [Category* J]
+    [HasLimitsOfShape J C] : HasWeakLimitsOfShape J C where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
instance (priority := 100) [HasLimitsOfShape J C] : HasWeakLimitsOfShape J C where
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,262 @@
...
+/-- The versal morphism from any other cone to a weak limit cone. -/
+@[simps]
+def liftConeMorphism {t : Cone F} (h : IsWeakLimit t) (s : Cone F) : s ⟶ t where hom := h.lift s
+
+/-- Alternative constructor for `isWeakLimit`,
+providing a morphism of cones rather than a morphism between the cone points
+and separately the factorisation condition.
+-/
+@[simps]
+def mkConeMorphism {t : Cone F} (lift : ∀ s : Cone F, s ⟶ t) : IsWeakLimit t where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: The original name in the `Limits` API is not very good, maybe `mkOfConeMorphism`?

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,262 @@
...
+    (adj : left ⊣ right) {c : Cone G} (t : IsWeakLimit c) : IsWeakLimit (right.obj c) :=
+  mkConeMorphism (fun s => adj.homEquiv s c (t.liftConeMorphism _))
+
+/-- Given two functors which have equivalent categories of cones, we can transport evidence of
+a weak limit cone across the equivalence.
+-/
+lemma ofConeEquiv {D : Type*} [Category* D] {G : K ⥤ D} (h : Cone G ≌ Cone F) {c : Cone G} :
+    Nonempty (IsWeakLimit (h.functor.obj c)) ↔ Nonempty (IsWeakLimit c) :=
+  ⟨fun P ↦ Nonempty.intro (IsWeakLimit.ofIsoWeakLimit
+   (IsWeakLimit.ofRightAdjoint h.toAdjunction P.some) (h.unitIso.symm.app c)),
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
    (IsWeakLimit.ofRightAdjoint h.toAdjunction P.some) (h.unitIso.symm.app c)),
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,262 @@
...
+the image of a weak limit cone is a weak limit cone.
+-/
+def ofRightAdjoint {left : Cone F ⥤ Cone G} {right : Cone G ⥤ Cone F}
+    (adj : left ⊣ right) {c : Cone G} (t : IsWeakLimit c) : IsWeakLimit (right.obj c) :=
+  mkConeMorphism (fun s => adj.homEquiv s c (t.liftConeMorphism _))
+
+/-- Given two functors which have equivalent categories of cones, we can transport evidence of
+a weak limit cone across the equivalence.
+-/
+lemma ofConeEquiv {D : Type*} [Category* D] {G : K ⥤ D} (h : Cone G ≌ Cone F) {c : Cone G} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: The other `iff` lemmas should be renamed below:
```suggestion
lemma iff_of_cone_equiv {D : Type*} [Category* D] {G : K ⥤ D} (h : Cone G ≌ Cone F) {c : Cone G} :
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean [hunk 25]
```diff
@@ -0,0 +1,127 @@
...
+
+variable {C}
+
+/-- This is a slightly more convenient method to verify that a fork is a weak limit cone. It
+only asks for a proof of facts that carry any mathematical content -/
+@[simps]
+def Fork.IsWeakLimit.mk (t : Fork f g) (lift : ∀ s : Fork f g, s.pt ⟶ t.pt)
+    (fac : ∀ s : Fork f g, lift s ≫ Fork.ι t = Fork.ι s) : IsWeakLimit t :=
+  { lift
+    fac := fun s j =>
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean]: Untested:
```suggestion
    fac s j :=
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 22 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Ok.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean (hunk 24 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]: Ok, I tried something.

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,260 @@
...
+lemma iff_of_cone_equiv {D : Type*} [Category* D] {G : K ⥤ D} (h : Cone G ≌ Cone F) {c : Cone G} :
+    Nonempty (IsWeakLimit (h.functor.obj c)) ↔ Nonempty (IsWeakLimit c) :=
+  ⟨fun P ↦ Nonempty.intro (IsWeakLimit.ofIsoWeakLimit
+    (IsWeakLimit.ofRightAdjoint h.toAdjunction P.some) (h.unitIso.symm.app c)),
+   fun P ↦ Nonempty.intro (IsWeakLimit.ofRightAdjoint h.symm.toAdjunction P.some)⟩
+
+/-- A cone postcomposed with a natural isomorphism is a weak limit cone
+if and only if the original cone is.
+-/
+lemma iff_of_postcomposeHomEquiv {F G : J ⥤ C} (α : F ≅ G) (c : Cone F) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
lemma postcompose_hom_iff_of_iso {F G : J ⥤ C} (α : F ≅ G) (c : Cone F) :
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,260 @@
...
+    Nonempty (IsWeakLimit ((Cone.postcompose α.hom).obj c)) ↔ Nonempty (IsWeakLimit c) :=
+  iff_of_cone_equiv (Cone.postcomposeEquivalence α)
+
+/-- A cone postcomposed with the inverse of a natural isomorphism is a weak limit cone
+if and only if the original cone is.
+-/
+lemma iff_of_postcomposeInvEquiv {F G : J ⥤ C} (α : F ≅ G) (c : Cone G) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
lemma postcompose_inv_iff_of_iso {F G : J ⥤ C} (α : F ≅ G) (c : Cone G) :
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean [hunk 28]
```diff
@@ -0,0 +1,127 @@
...
+  HasWeakLimitsOfShape WalkingParallelPair C
+
+/-- A category with equalizers has weak equalizers. -/
+instance (priority := 100) HasWeakEqualizersOfHasEqualizers [HasEqualizers C] :
+    HasWeakEqualizers C where
+
+/-- If `C` has all weak limits of diagrams `parallelPair f g`, then it has all weak equalizers -/
+theorem hasWeakEqualizers_of_hasWeakLimit_parallelPair
+    [∀ {X Y : C} {f g : X ⟶ Y}, HasWeakLimit (parallelPair f g)] : HasWeakEqualizers C :=
+  { hasWeakLimit := fun F => hasWeakLimit_of_iso (diagramIsoParallelPair F).symm }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean]: Could you use the `where` syntax, with `hasWeakLimit F := ...`?

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean [hunk 29]
```diff
@@ -0,0 +1,141 @@
...
+/-- `HasWeakKernels` represents the existence of weak kernels for every morphism. -/
+class HasWeakKernels : Prop where
+  hasWeakLimit : ∀ {X Y : C} (f : X ⟶ Y), HasWeakKernel f := by infer_instance
+
+attribute [instance 100] HasWeakKernels.hasWeakLimit
+
+/-- If a category has kernels, then it has weak kernels. -/
+instance (priority := 100) HasWeakKernelsOfHasKernels [HasKernels C] :
+    HasWeakKernels C where
+      hasWeakLimit _ := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean]: Untested:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean [hunk 30]
```diff
@@ -0,0 +1,141 @@
...
+/-- A preadditive category has a weak kernel for `f - g` if it has a weak equalizer
+for `f` and `g`. -/
+theorem hasWeakKernel_of_hasWeakEqualizer [HasWeakEqualizer f g] : HasWeakKernel (f - g) :=
+  HasWeakLimit.mk
+    { cone := kernelForkOfFork (weakEqualizer.fork f g)
+      isWeakLimit := isWeakLimitKernelForkOfFork (weakLimit.isWeakLimit (parallelPair f g)) }
+
+/-- If a preadditive category has all weak kernels, then it also has all weak equalizers. -/
+theorem hasWeakEqualizers_of_hasWeakKernels [HasWeakKernels C] : HasWeakEqualizers C :=
+  @hasWeakEqualizers_of_hasWeakLimit_parallelPair _ _
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean]: Could you avoid using `@` here?

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean [hunk 31]
```diff
@@ -0,0 +1,260 @@
...
+    l ≫ weakPullback.fst f g = h ∧ l ≫ weakPullback.snd f g = k :=
+  ⟨weakPullback.lift h k, by simp⟩
+
+/-- The cone associated to a weak pullback is a weak limit cone. -/
+abbrev weakPullback.isWeakLimit {X Y Z : C} (f : X ⟶ Z) (g : Y ⟶ Z) [HasWeakPullback f g] :
+    IsWeakLimit (weakPullback.cone f g) :=
+  weakLimit.isWeakLimit (cospan f g)
+
+@[simp]
+theorem WeakPullbackCone.fst_limit_cone {X Y Z : C} (f : X ⟶ Z) (g : Y ⟶ Z)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean]: `WeakPullbackCone` does not exist, so that we should probably not use this name, maybe `weakLimit.pullbackConeFst_cone_cospan`?
Same below?

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean [hunk 32]
```diff
@@ -0,0 +1,260 @@
...
+
+/-- This is another convenient method to verify that a pullback cone is a weak limit cone. It
+only asks for a proof of facts that carry any mathematical content, and allows access to the
+same `s` for all parts. -/
+def isWeakLimitAux' (t : PullbackCone f g)
+    (create :
+      ∀ s : PullbackCone f g,
+        { l //
+          l ≫ t.fst = s.fst ∧
+            l ≫ t.snd = s.snd}) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean]:
```suggestion
      ∀ s : PullbackCone f g, { l // l ≫ t.fst = s.fst ∧ l ≫ t.snd = s.snd}) :
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean [hunk 33]
```diff
@@ -0,0 +1,260 @@
...
+section
+
+attribute [local instance] hasWeakLimit_cospan_of_hasLimit_pair_of_hasWeakLimit_parallelPair
+
+/-- If a category has all binary products and all weak equalizers, then it also has all
+weak pullbacks. As usual, this is not an instance, since there may be a more direct way to
+construct weak pullbacks. -/
+theorem hasWeakPullbacks_of_hasBinaryProducts_of_hasWeakKernels
+    [HasBinaryProducts C] [HasWeakEqualizers C] : HasWeakPullbacks C where
+      hasWeakLimit F := hasWeakLimit_of_iso (diagramIsoCospan F).symm
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean]:
```suggestion
  hasWeakLimit F := hasWeakLimit_of_iso (diagramIsoCospan F).symm
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean (hunk 28 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean]: Done.

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean (hunk 30 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean]: I removed it, but I don't know if you will like the way I did it.

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean (hunk 31 above)
Comment (smorel394) [reply Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean]: Ok.

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean [hunk 34]
```diff
@@ -0,0 +1,140 @@
...
+/-- A preadditive category has a weak kernel for `f - g` if it has a weak equalizer
+for `f` and `g`. -/
+theorem hasWeakKernel_of_hasWeakEqualizer [HasWeakEqualizer f g] : HasWeakKernel (f - g) :=
+  HasWeakLimit.mk
+    { cone := kernelForkOfFork (weakEqualizer.fork f g)
+      isWeakLimit := isWeakLimitKernelForkOfFork (weakLimit.isWeakLimit (parallelPair f g)) }
+
+/-- If a preadditive category has all weak kernels, then it also has all weak equalizers. -/
+theorem hasWeakEqualizers_of_hasWeakKernels [HasWeakKernels C] : HasWeakEqualizers C :=
+  have := fun {X Y : C} {f g : X ⟶ Y} ↦ hasWeakEqualizer_of_hasWeakKernel f g
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean]: This is a slightly better syntax:
```suggestion
  have {X Y : C} (f g : X ⟶ Y) := hasWeakEqualizer_of_hasWeakKernel f g
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean [hunk 35]
```diff
@@ -0,0 +1,140 @@
...
+
+namespace Preadditive
+
+open Preadditive
+
+variable [Preadditive C] {X Y : C} {f g : X ⟶ Y}
+
+/-- A weak kernel of `f - g` is a weak equalizer of `f` and `g`. -/
+def isWeakLimitForkOfKernelFork {c : KernelFork (f - g)} (i : IsWeakLimit c) :
+    IsWeakLimit (forkOfKernelFork (C := C) c) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean]:
```suggestion
    IsWeakLimit (forkOfKernelFork c) :=
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean [hunk 36]
```diff
@@ -0,0 +1,140 @@
...
+  ⟨weakKernel.lift f k h, weakKernel.lift_ι _ _ _⟩
+
+end
+
+end Limits
+
+namespace Preadditive
+
+open Preadditive
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakKernels.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean [hunk 37]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- This is a slightly more convenient method to verify that a fork is a weak limit cone. It
+only asks for a proof of facts that carry any mathematical content -/
+@[simps]
+def Fork.IsWeakLimit.mk (t : Fork f g) (lift : ∀ s : Fork f g, s.pt ⟶ t.pt)
+    (fac : ∀ s : Fork f g, lift s ≫ Fork.ι t = Fork.ι s) : IsWeakLimit t :=
+  { lift
+    fac s j :=
+      WalkingParallelPair.casesOn j (fac s) <| by
+        simp [← Category.assoc, fac]}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakEqualizers.lean]:
```suggestion
        simp [← Category.assoc, fac] }
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean [hunk 38]
```diff
@@ -0,0 +1,260 @@
...
+
+/-- If a functor `F` has a weak limit, so does any naturally isomorphic functor.
+-/
+theorem hasWeakLimit_of_iso {F G : J ⥤ C} [HasWeakLimit F] (α : F ≅ G) : HasWeakLimit G :=
+  HasWeakLimit.mk
+    { cone := (Cone.postcompose α.hom).obj (weakLimit.cone F)
+      isWeakLimit :=
+        Nonempty.some ((IsWeakLimit.postcompose_hom_iff_of_iso α _ ).mpr
+        (Nonempty.intro (weakLimit.isWeakLimit F)))
+      }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/Basic.lean]:
```suggestion
        (Nonempty.intro (weakLimit.isWeakLimit F))) }
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean [hunk 39]
```diff
@@ -0,0 +1,257 @@
...
+    { cone :=
+        PullbackCone.mk (e ≫ π₁) (e ≫ π₂) <| by
+          rw [Category.assoc, weakEqualizer.condition]
+          simp [e]
+      isWeakLimit :=
+        PullbackCone.IsWeakLimit.mk _ (fun s => weakEqualizer.lift
+          (prod.lift (s.π.app WalkingCospan.left) (s.π.app WalkingCospan.right)) <| by
+            rw [← Category.assoc, limit.lift_π, ← Category.assoc, limit.lift_π]
+            exact PullbackCone.condition _)
+          (by simp [π₁, e]) (by simp [π₂, e])}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean]:
```suggestion
  HasWeakLimit.mk
    { cone :=
        PullbackCone.mk (weakEqualizer.ι (prod.fst ≫ f) (prod.snd ≫ g) ≫ prod.fst)
          (weakEqualizer.ι _ _ ≫ prod.snd) <| by
          rw [Category.assoc, weakEqualizer.condition]
          simp 
      isWeakLimit :=
        PullbackCone.IsWeakLimit.mk _ (fun s ↦ weakEqualizer.lift
          (prod.lift (s.π.app .left) (s.π.app .right)) <| by
            simp [limit.lift_π_assoc, PullbackCone.condition])
          (by simp) (by simp) }
```

File: Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean [hunk 40]
```diff
@@ -0,0 +1,257 @@
...
+
+section
+
+attribute [local instance] hasWeakLimit_cospan_of_hasLimit_pair_of_hasWeakLimit_parallelPair
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/WeakLimits/WeakPullbacks.lean]:
```suggestion
attribute [local instance] hasWeakLimit_cospan_of_hasLimit_pair_of_hasWeakLimit_parallelPair in
```

**Comment by joelriou** [comment]
Thanks!

bors merge
